data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1811,2004,[CH3:18][NH:19][C:20](=[O:21])[N:22]=[NH+:23][N-:24][C:25](=[O:26])[O:27][CH3:28].[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:24]([C:25](=[O:26])[O:27][CH3:28])[NH:23][N:22]2[C:20]([NH:19][CH3:18])=[O:21],water,298.15,31.15326730076745,-21.109798664511885
341,371,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[NH:16][CH:17]3[C:18]([CH3:19])=[O:20],water,298.15,12.170185362218652,-34.220790886326014
4137,4738,[CH3:10][c-:11]1[nH+:12][c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]2([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[NH:12][C:11]1([CH3:10])[C:21](=[O:22])[O:20]2,water,298.15,28.148449154875163,-1.155038388098845
2055,2282,[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,12.187009620670688,-51.39773905643466
3484,3968,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([CH3:16])([C:17]#[N:18])[O:14][C:12]2([CH3:11])[CH3:13],water,298.15,10.261150552177304,-48.29090919919301
2499,2776,[CH3:18][n+:19]1[c:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[o:27][c:28](=[O:29])[c-:30]1[C:31]#[N:32].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Br:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Br:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:30]1([C:31]#[N:32])[N:19]([CH3:18])[C:20]2([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[O:27][C:28]1=[O:29],water,298.15,22.66312823915657,-9.072721167176573
1682,1857,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[CH-:26][C:27]#[N:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:20](=[O:21])[O:22][CH3:23])[N:24]([CH3:25])[CH:26]2[C:27]#[N:28],water,298.15,25.13188209157568,-23.78940328322259
2259,2504,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][c:25]1[nH+:26][c-:27]([C:28]#[N:29])[c:30](=[O:31])[o:32]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:27]1([C:28]#[N:29])[NH:26][C:25]2([CH3:24])[O:32][C:30]1=[O:31],water,298.15,24.89025707942184,-9.813591651904511
1929,2137,[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:23][NH:24][C:25](=[O:26])[N:27]=[N+:28]([CH3:29])[O-:30]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:27]([C:25]([NH:24][CH3:23])=[O:26])[N:28]([CH3:29])[O:30]1,water,298.15,50.93556151240001,20.41465156072791
3217,3633,[CH3:10][C:11]([CH3:12])=[O+:13][N-:14][C:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([C:15]#[N:16])[O:13][C:11]1([CH3:10])[CH3:12],water,298.15,23.16460658569771,-11.982654572138935
1356,1491,[CH3:18][C:19](=[O:20])[CH-:21][O+:22]=[C:23]([C:24]#[N:25])[C:26]#[N:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[CH:21]([C:19]([CH3:18])=[O:20])[O:22][C:23]2([C:24]#[N:25])[C:26]#[N:27],water,298.15,16.413861548298087,-40.89852991810858
